US08022214B2
To a solution of anthracen-9-yl-acetonitrile (3.0 g, 13.82 mmol) in ethanol (150 mL) was added concentrated NH4OH (15 mL) and Raney nickel (15 g), and ammonia gas was bubbled through the mixture at 0° C. for 10 minutes. The suspension was hydrogenated for 48 hours at room temperature. Air was bubbled through the solution and Raney nickel was removed by filtration. The filtrate was concentrated and the oily residue was dissolved in CH2Cl2, washed with an aqueous solution of sodium carbonate (Na2CO3, 10%), dried over MgSO4 and concentrated. The resulting solid was purified by recrystallization from a mixture of hexane and CH2Cl2 (7:3) to give 2-anthracen-9-yl-ethylamine as yellow crystals (2.60 g, 85%). 1H NMR (CDCl3) δ 8.37 (1H, s), 8.33 (2H, d), 8.02 (2H, d), 7.54-7.47 (4H, m), 3.86 (2H, t), 3.19 (2H, t), 1.34 (2H, br-s).

reactant | anthracen-9-yl-acetonitrile | 13.82 mmol, 3.0 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CC#N | C16H11N
reactant | NH4OH | 15 mL | [NH4+].[OH-]
reactant | ammonia | N | H3N
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Raney nickel | 15 g | [Ni] | Ni
product | 2-anthracen-9-yl-ethylamine | 2.60 g, 85% | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CCN | C16H15N
